### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation/ValuativeRel): introduce `=ᵥ` relation

### PR DESCRIPTION
**Pull request by vihdzp**
Of course, the characterizing property is that for any compatible valuation, `x =ᵥ y` is equivalent to `v x = v y`.

---

I haven't yet introduced too much API. I'll be using this on the CGT repo in order to define a `ValuativeRel Surreal` instance compatible with `ArchimedeanClass.mk`. If there's any API I'm missing, I'll upstream it in a subsequent PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 1]
```diff
@@ -124,32 +124,63 @@ def vlt (x y : R) : Prop := ¬ y ≤ᵥ x
...
-  cases vle_total x x <;> assumption
+protected alias ⟨_, vle.not_vlt⟩ := not_vlt
+protected alias ⟨_, vlt.not_vle⟩ := not_vle
 
-@[deprecated (since := "2025-12-20")] alias rel_refl := vle_refl
+lemma veq_comm {x y : R} : x =ᵥ y ↔ y =ᵥ x := antisymmRel_comm
+protected alias ⟨veq.symm, _⟩ := veq_comm
+
+lemma vle_of_veq {x y : R} (h : x =ᵥ y) : x ≤ᵥ y := h.1
+lemma vle_of_veq' {x y : R} (h : x =ᵥ y) : y ≤ᵥ x := h.2
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]: should this be called `vge_of_veq` instead?

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 2]
```diff
@@ -124,32 +124,63 @@ def vlt (x y : R) : Prop := ¬ y ≤ᵥ x
...
 
-@[simp]
-lemma vle_refl (x : R) : x ≤ᵥ x := by
-  cases vle_total x x <;> assumption
+protected alias ⟨_, vle.not_vlt⟩ := not_vlt
+protected alias ⟨_, vlt.not_vle⟩ := not_vle
 
-@[deprecated (since := "2025-12-20")] alias rel_refl := vle_refl
+lemma veq_comm {x y : R} : x =ᵥ y ↔ y =ᵥ x := antisymmRel_comm
+protected alias ⟨veq.symm, _⟩ := veq_comm
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:145]: I think there is also a `Symm` or `IsSymm` typeclass right? Can you provide it as well? Thanks.

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]: I was unsure on whether to do this since we don't have anything called `ValuativeRel.vge`, while we do have `GE.ge`. But I can do the change if so desired.

Comment (erdOne) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]: but `ge_of_eq` does not mention `GE.ge` so I think this name (`vge_of_veq`) is reasonable.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 3]
```diff
@@ -124,32 +124,66 @@ def vlt (x y : R) : Prop := ¬ y ≤ᵥ x
...
+
+instance : @Std.Symm R (· =ᵥ ·) where
+  symm _ _ := veq.symm
+
+lemma vle_of_veq {x y : R} (h : x =ᵥ y) : x ≤ᵥ y := h.1
+lemma vge_of_veq {x y : R} (h : x =ᵥ y) : y ≤ᵥ x := h.2
```
Comment (jcommelin) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:151]: Is there a reason you want these? I would think the dot-notation versions alone would also be good?

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 4]
```diff
@@ -124,32 +124,66 @@ def vlt (x y : R) : Prop := ¬ y ≤ᵥ x
...
 
-lemma vle_rfl {x : R} : x ≤ᵥ x :=
-  vle_refl x
+protected alias veq.vle := vle_of_veq
+protected alias veq.vge := vge_of_veq
 
+lemma not_vlt_of_veq {x y : R} (h : x =ᵥ y) : ¬ x <ᵥ y := h.vge.not_vlt
+lemma not_vgt_of_veq {x y : R} (h : x =ᵥ y) : ¬ y <ᵥ x := h.vle.not_vlt
```
Comment (jcommelin) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:157]: Idem

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 5]
```diff
@@ -124,32 +124,66 @@ def vlt (x y : R) : Prop := ¬ y ≤ᵥ x
 
 macro_rules | `($a <ᵥ $b) => `(binrel% ValuativeRel.vlt $a $b)
 
+/-- The valuation equals relation, defined as `x =ᵥ y ↔ x ≤ᵥ y ∧ y ≤ᵥ x`. -/
+def veq : R → R → Prop := AntisymmRel (· ≤ᵥ ·)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:126]: Shouldn't this be `VEq`? And then also `VLT`, etc?

**Review by jcommelin — COMMENTED** [review]
You mention the characterizing property in the PR description. But can you also prove it as part of this PR?

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean (hunk 5 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:126]: The typeclass is called `LT`, but the relation is called `lt`, so it was decided to go with `vlt` (same for `vle`). And then I guess `veq` was done in analogy to `vlt` and `vle`.

Comment (vihdzp) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:126]: Yes, this was discussed back in #33040.

Comment (jcommelin) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:126]: Aha, thanks for the pointer.

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:151]: For discoverability, and for parity with e.g. `le_of_eq`.

**Comment by vihdzp** [comment]
The characterization is already in this PR, it's `veq_iff_eq`.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
